US08461348B2
4-bromo-5-methylthiophene-2-carbaldehyde
To a solution of 5-methylthiophene-2-carbaldehyde (2.00 g) in acetic acid (20 mL) was added dropwise bromine (0.90 mL). The reaction mixture was stirred at room temperature for 8 hr, saturated aqueous sodium hydrogen carbonate was added by small portions, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate, saturated sodium thiosulfate aqueous solution, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (carrier: silica gel, eluent: hexane-ethyl acetate) to give the title compound (2.11 g).

reactant | 5-methylthiophene-2-carbaldehyde | 2.00 g | CC1=CC=C(S1)C=O | C6H6OS
reactant | bromine | 0.90 mL | BrBr | Br2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-5-methylthiophene-2-carbaldehyde | 2.11 g | BrC=1C=C(SC1C)C=O | C6H5BrOS
